US07547710B2
To a suspension of tert-butyl {[2-isobutyl-6-(4-{[methoxy(methyl)amino]carbonyl}-1,3-thiazol-2-yl)-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (0.23 g, 0.4 mmol) in tetrahydrofuran (10 ml) was added dropwise 3.0 M methylmagnesium bromide (0.4 ml, 1.2 mmol) at 0° C. After the completion of the dropwise addition, the mixture was stirred at 0° C. for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give tert-butyl [6-(4-acetyl-1,3-thiazol-2-yl)-2-isobutyl-4-(4-methylphenyl)-3-quinolinyl]methylcarbamate (0.20 g, yield 95%) as white crystals.

reactant | tert-butyl {[2-isobutyl-6-(4-{[methoxy(methyl)amino]carbonyl}-1,3-thiazol-2-yl)-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 0.4 mmol, 0.23 g | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)C=1SC=C(N1)C(=O)N(C)OC | C32H38N4O4S
reactant | methylmagnesium bromide | 1.2 mmol, 3.0 M, 0.4 ml | C[Mg]Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl [6-(4-acetyl-1,3-thiazol-2-yl)-2-isobutyl-4-(4-methylphenyl)-3-quinolinyl]methylcarbamate | 0.20 g, yield 95% | C(C)(=O)C=1N=C(SC1)C=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C31H35N3O3S
